2206-05-06 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2206-5-5**] 09:53 PM
   continued tachycardia to 120-130's with vague complaints of heaviness
   to stomach after eating ice cream; denies CP/or increased SOB; no
   numbness/tingling or jaw pain
   - Started Spiriva, salmeterol
   - Zosyn stopped, started on levofloxacin
   - Prednisone tapered from 60mg PO daily to 50mg PO daily
   - Likely d/c in AM to rehab facility
   - On discharge, will need to email Dr. [**First Name8 (NamePattern2) 376**] [**Last Name (NamePattern1) **] (PCP) regarding
   prednisone taper, and to follow-up sputum sensitivities - on final,
   RARE GROWTH OROPHARYNGEAL FLORA
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2206-5-3**] 08:05 AM
   Azithromycin - [**2206-5-3**] 10:28 AM
   Piperacillin - [**2206-5-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2206-5-6**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 109 (107 - 131) bpm
   BP: 152/79(95) {134/64(84) - 171/87(110)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
                  Total In:
                                                                    974 mL
                  PO:
                                                                    800 mL
                  TF:
   IVF:
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    145 mL
   Urine:
                                                                  1,005 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -31 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///40/
   Physical Examination
   General:  NAD, cachetic; sitting in chair
   HEENT:  Sclera anicteric, dry mucous membranes
   Lungs:  Coarse breath sounds diffusely with occasional wheezes
   CV:  Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no cyanosis or edema
   Labs / Radiology
   411 K/uL
   11.1 g/dL
   77 mg/dL
   0.9 mg/dL
   40 mEq/L
   3.9 mEq/L
   36 mg/dL
   97 mEq/L
   141 mEq/L
   35.4 %
   16.3 K/uL
        [image002.jpg]
   Ca: 9.1 Mg: 2.1 P: 1.8
                             [**2206-5-2**]  11:41 AM
                             [**2206-5-2**]  09:52 PM
                             [**2206-5-3**]  03:12 AM
                             [**2206-5-3**]  10:29 AM
                             [**2206-5-4**]  02:23 AM
                             [**2206-5-5**]  05:27 AM
                             [**2206-5-6**]  03:14 AM
   WBC
   17.3
   16.1
   15.7
   16.3
   Hct
   33.9
   34.3
   34.7
   35.4
   Plt
   463
   496
   436
   411
   Cr
   1.1
   1.2
   1.0
   0.9
   TCO2
   34
   36
   35
   Glucose
   138
   141
   103
   77
   Other labs: PT / PTT / INR:12.4/22.6/1.0, Lactic Acid:1.1 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
[**2206-5-2**] 9:58 am SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2206-5-4**]**
   GRAM STAIN (Final [**2206-5-2**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2206-5-4**]):
      RARE GROWTH OROPHARYNGEAL FLORA.
[**2206-5-2**] 6:45 am BLOOD CULTURE
   Blood Culture, Routine (Pending):   No growth to date x2
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 IMPAIRED SKIN INTEGRITY
   62F with severe COPD, pulmonary hypertension admitted with SOB, cough,
   and increased sputum production with hypercarbic respiratory failure
   requiring intubation in ED
   .
   # COPD:  Severe. Has had multiple intubations in recent months. Flu
   swab neg. Currently doing well off of ventilator.
   - Continue prednisone. Taper to 40mg over next few days, then slow
   taper over several weeks.
   - Initially suspected to have RLL. GNR noted in sputum gram stain,
   although sputum culture without significant growth. Was initially on
   Zosyn, and transitioned to levofloxacin on [**2206-5-5**]. Clinically does not
   appear to have a pneumonia, although may have bronchitis.
   - Continue nebs
   - COPD regimen optimized
 includes montelukast, salmeterol, titropium,
   and short-acting bronchodilators
   .
   # Hyperglycemia:  Likely [**12-30**] steroids. Requiring little Humalog sliding
   scale coverage. Expect blood glucose to quickly normalize as steroids
   are tapered.
   .
   # CAD:  Stable, last EF 50-55%. No evidence of current ischemia.
   - Cont plavix, lisinopril, statin per home regimen
   .
   # Gastritis:  Was on PPI previously. Given that she is also on Plavix,
   transitioned to H2 blocker.
   .
   # Depression:  Stable on home regimen.
   - Cont nortriptyline, paroxetine
   .
   # Tachycardia:  Persistent. No other indications of substance
   withdrawal. Initially suspected to have MAT, but appears to be in sinus
   tachycardia on most recent EKG. Denies pain. Did have discomfort in
   abdomen after eating desert last evening.
   ICU Care
   Nutrition:  Heart healthy diet
   Glycemic Control:   Currently with sliding scale Humalog insulin
   Lines:
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:  Ranitidine PO daily
   Communication:
   Code status:  Full code
   Disposition:  Plan to discharge to facility today